US05021420
The experiment is carried out as in Example 18, starting with 6-chloronaphtho[1,8-cd]isothiazole 1,1-dioxide (1.4 g), 1-(3-chloropropyl)-4-(4-fluorophenyl) piperazine (1.5 g), sodium hydride (0.18 g) in an 80dispersion in vaseline oil and dimethylformamide (15 cc). The reaction mixture is heated for 1 hour 30 minutes at 90° C., cooled to a temperature of about 20° C. and then concentrated to dryness at 60° C. under reduced pressure (0.5 mm Hg; 0.07 kPa). The residue is redissolved in dichloromethane (50 cc) and the solution is washed with distilled water (20 cc), dried over magnesium sulphate and concentrated to dryness at 20° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is purified by chromatography on a silica column with a mixture of dichloromethane and ethyl acetate (95-5 vol) as eluant, then recrystallized from boiling acetonitrile (10 cc). 6-Chloro-2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-naphtho[1,8-cd]isothiazole 1,1-dioxide (1.2 g) is obtained, m.p. 125° C.

reactant | 6-chloronaphtho[1,8-cd]isothiazole 1,1-dioxide | 1.4 g | ClC=1C2=CC=CC=3NS(C(C32)=CC1)(=O)=O | C10H6ClNO2S
reactant | 1-(3-chloropropyl)-4-(4-fluorophenyl) piperazine | 1.5 g | ClCCCN1CCN(CC1)C1=CC=C(C=C1)F | C13H18ClFN2
reactant | sodium hydride | 0.18 g | [H-].[Na+]
solvent | dimethylformamide | 15 cc | CN(C=O)C | C3H7NO
product | 6-Chloro-2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-naphtho[1,8-cd]isothiazole 1,1-dioxide | 1.2 g | ClC=1C2=CC=CC=3N(S(C(C32)=CC1)(=O)=O)CCCN1CCN(CC1)C1=CC=C(C=C1)F | C23H23ClFN3O2S
